US07022707B2
2-Chloro-6-fluoro-4-ethoxy-benzylalcohol:
This compound was prepared from 3-chloro-5-fluoro-4-hydroxymethyl-phenol and ethylbromide according to the procedure described in Example 179 to give the product as a yellowish oil (209 mg, 60%); MS (EI): 204.1 (M)+.

reactant | 3-chloro-5-fluoro-4-hydroxymethyl-phenol | ClC=1C=C(C=C(C1CO)F)O | C7H6ClFO2
reactant | ethylbromide | C(C)Br | C2H5Br
product | 2-Chloro-6-fluoro-4-ethoxy-benzylalcohol | 209 mg, 60% | ClC1=C(CO)C(=CC(=C1)OCC)F | C9H10ClFO2
